US07169927B2
3-Amino-1-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]-3.4-dihydroquinolin-2(1H)-one
Sodium hydride (60% in oil, 1.60 g, 39.80 mmol) was added to 3-amino-3,4-dihydroquinolin-2(1H)-one hydrochloride (3.59 g, 18.09 mmol), in anhydrous DMF (50 mL) at 0° C. over a period of 10 min. The reaction was stirred for a further 30 min before addition of (2,2-dimethyl-1,3-dioxan-5-yl)methyl methanesulfonate [CAS registary number 131372-64-0] (4.05 g, 18.09 mmol) and the reaction has then heated to 60° C. for a period of 16 h. The reaction was then cooled and evaporated before addition of sat. aqueous NaHCO3 (200 mL) and EtOAc (500 mL). The organic layer was then dried (MgSO4), filtered and evaporated and the residue was purified by column chromatography (MeOH:DCM, 3:37) to afford the title compound (3.00 g, 57%) as a colourless oil.

reactant | Sodium hydride | 39.80 mmol, 1.60 g | [H-].[Na+]
reactant | 3-amino-3,4-dihydroquinolin-2(1H)-one hydrochloride | 18.09 mmol, 3.59 g | Cl.NC1C(NC2=CC=CC=C2C1)=O
reactant | (2,2-dimethyl-1,3-dioxan-5-yl)methyl methanesulfonate | 18.09 mmol, 4.05 g | CS(=O)(=O)OCC1COC(OC1)(C)C | C8H16O5S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-Amino-1-[(2,2-dimethyl-1,3-dioxan-5-yl)methyl]-3.4-dihydroquinolin-2(1H)-one | 3.00 g, 57% | NC1C(N(C2=CC=CC=C2C1)CC1COC(OC1)(C)C)=O | C16H22N2O3
